2168-04-15 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2168-4-15**] 12:00 AM
   - had episodes of SVT to 190's overnight in the setting of pain and
   fever, given calcium gluconate and tylenol, continued monitoring.
   - EKG and lytes were done, responded to dilt push 10mg IV x1, metop x2.
   broke trachycardia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-4-14**] 07:30 PM
   Vancomycin - [**2168-4-14**] 10:30 PM
   Metronidazole - [**2168-4-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2168-4-14**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2168-4-14**] 10:47 PM
   Diltiazem - [**2168-4-15**] 01:30 AM
   Metoprolol - [**2168-4-15**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-15**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.6
C (99.6
   HR: 81 (72 - 143) bpm
   BP: 117/62(76) {90/56(62) - 132/89(97)} mmHg
   RR: 10 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,270 mL
                                                                  1,655 mL
   PO:
             TF:
   IVF:
                                                                  2,770 mL
                                                                  1,595 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    495 mL
                                                                    850 mL
   Urine:
                                                                    285 mL
                                                                    590 mL
   NG:
                                                                      5 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                      5 mL
                                                                     35 mL
   Balance:
                                                                  2,775 mL
                                                                    805 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   11.0 g/dL
   112 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   22 mg/dL
   104 mEq/L
   137 mEq/L
   32.5 %
   9.7 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
   WBC
   9.8
   9.0
   9.7
   Hct
   33.6
   31.7
   32.5
   Plt
   222
   220
   236
   Cr
   1.5
   1.2
   1.2
   Glucose
   138
   122
   112
   Other labs: PT / PTT / INR:14.1/30.1/1.2, Ca++:8.0 mg/dL, Mg++:2.5
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   The patient is a 54 year old male with a history of BPH, HTN, and
   recently diagnosed rectosigmoid cancer s/p open low anterior resection,
   complicated by fevers in the setting of a small anastomotic leak now in
   the ICU following surgical repair.
   .
   # post-op tachycardia/a.fib: never symptomatic, went as high as 190.
   controlled by dilt and metoprolol IV.
   - per surgery: rec: metoprolol iv 5mg q 4h with holding parameters.
   Will clarify need for standing dose with surgery and cards consult
   given pt is now in sinus rhythm.
   - likely will just monitor, patient responded well to diltiazem without
   too much of an effect on his BP.
   .
   # Fevers:  Likely from peritonitis in the setting of anastomotic leak
   seen on fluoroscopy, now s/p surgical repair.  Had been dosed
   vanc/zosyn yesterday, and currently on vanc/cipro/flagyl.  With also a
   potential concern for c.diff, flagyl will also cover.
   - f/u blood cultures
   - c.diff
 negative, on flagyl
   - trend fever curve, tylenol PRN
   - CIS
   .
   # Anastomotic leak: now s/p surgical repair.  Continued co-management
   w/ general surgery.
   - NGT on suction
   - monitor drain output.
   - dilaudid PCA for pain control
   .
   # Rectosigmoid cancer: s/p surgical excision.
   - f/u lymphnode biopsies and further outpatient plan per Dr. [**Last Name (STitle) 2998**].
   .
   # Acute Renal Failure: Most likely etiologies include pre-renal failure
   vs. ATN from perioperative hypotension.  Will continue with IVF, and
   reassess in am.  If not improving, can send off urine studies.
   - avoid nephrotoxic meds
   - trend UOP.
   .
   # BPH: will hold hytrin in case becomes septic.
   .
   FEN: IVF at 75 cc/hr, replete electrolytes, NPO
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code:  Full
   .
   Communication: Patient w/ wife [**First Name4 (NamePattern1) **] [**Known lastname 12476**] [**0-0-**]
   .
   Disposition: pending clinical improvement, call-out today
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   18 Gauge - [**2168-4-15**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-04-16 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2168-4-15**] 02:00 PM
 BLOOD CULTURED - At [**2168-4-15**] 03:33 PM
 URINE CULTURE - At [**2168-4-15**] 03:33 PM
 FEVER - 101.4
F - [**2168-4-15**] 02:00 PM
    Start scheduled Metoprolol --> 5 q6 IV
   - spiked to 101.4 and hit 160 bpm -- gave total of 20 IV metoprolol
   without breaking; started dilt drip
   - TTE - EF > 70%, mild [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 3167**]
   - Cards: continue fluids, give bb > ccb
   - Put on dilt drip with ultimate success --> in 3:1 block on 20 mg/hr
   - CXR: some atelectasis
   - F/u BCx
   - F/u UA - few bact, mod blood, prote 30
   - F/u Ucx
   - PM labs: Normal lytes
   - abdomen looked more distended --> Bladder pressure 16-20
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-4-15**] 08:13 PM
   Ciprofloxacin - [**2168-4-15**] 10:16 PM
   Metronidazole - [**2168-4-16**] 12:02 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2168-4-15**] 07:15 PM
   Heparin Sodium (Prophylaxis) - [**2168-4-15**] 10:16 PM
   Lorazepam (Ativan) - [**2168-4-15**] 10:29 PM
   Metoprolol - [**2168-4-16**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-16**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.5
   HR: 82 (79 - 151) bpm
   BP: 116/70(79) {91/59(70) - 130/80(88)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 93 kg (admission): 94.3 kg
    Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  4,412 mL
                                                                    743 mL
   PO:
   TF:
   IVF:
                                                                  4,292 mL
                                                                    743 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    945 mL
   Urine:
                                                                  2,230 mL
                                                                    925 mL
   NG:
                                                                    750 mL
   Stool:
   Drains:
                                                                     65 mL
                                                                     20 mL
   Balance:
                                                                  1,342 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   262 K/uL
   10.9 g/dL
   113 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   21 mg/dL
   102 mEq/L
   134 mEq/L
   32.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  03:05 PM
                             [**2168-4-16**]  03:35 AM
   WBC
   9.8
   9.0
   9.7
   12.8
   Hct
   33.6
   31.7
   32.5
   32.5
   Plt
   222
   220
   236
   262
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   138
   122
   112
   107
   113
   Other labs: PT / PTT / INR:14.1/30.1/1.2, CK / CKMB /
   Troponin-T:464/3/<0.01, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   The patient is a 54 year old male with a history of BPH, HTN, and
   recently diagnosed rectosigmoid cancer s/p open low anterior resection,
   complicated by fevers in the setting of a small anastomotic leak now in
   the ICU following surgical repair.
   .
   # Atrial Flutter: It was paroxysmal at first and now consistent, never
   symptomatic; fib vs flutter with variable block, went as high as 190.
   controlled by dilt and metoprolol IV at first but requiring increasing
   doses. Ultimately controlled with Dilt Basal/Bolus at 3:1 block. TTE
   with mild dilation of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 12515**] suitable protoplasm for SVT. Normal
   TSH
   - continue Dilt drip
   - convert to bolus, likely 60 QID PO once able to take POs
   - Cards following
   - will discuss possible cardiversion with surgery
   .
   # Fevers:  Gram stain positive for GNR in peritoneal sample. Likely
   from peritonitis in the setting of anastomotic leak seen on
   fluoroscopy, now s/p surgical repair.  Had been dosed vanc/zosyn
   yesterday, and currently on vanc/cipro/flagyl.  With also a potential
   concern for c.diff, flagyl will also cover.
   - f/u blood cultures
   - trend fever curve; cooling techniques (bath, blanket), Tylenol when
   GI tract is not off-limits
   - CIS
   .
   # Anastomotic leak: now s/p surgical repair.  Continued co-management
   w/ general surgery.
   - NGT on suction
   - monitor drain output.
   - dilaudid PCA for pain control
   .
   # Rectosigmoid cancer: s/p surgical excision.
   - f/u lymph node biopsies and further outpatient plan per Dr.
   [**Last Name (STitle) 2998**].
   .
   # Acute Renal Failure: Most likely etiologies include pre-renal failure
   vs. ATN from perioperative hypotension.  Improved with fluids.
   - avoid nephrotoxic meds
   - trend UOP.
   .
   # BPH: will hold hytrin in case becomes septic.
   .
   FEN: IVF at 75 cc/hr, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient w/ wife [**Name (NI) 169**] [**Name (NI) **] [**0-0-**]
                             Daughter is GI PA
   Disposition: pending clinical improvement, call-out when stable on
   bolus dosing
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   18 Gauge - [**2168-4-15**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-04-16 10:12:00 Physician Attending Progress Note
Chief Complaint: Tachycardia (A-flutter)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on diltiazem infusion for cardiac rate control.
   States deep inspiration limited by
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-4-15**] 10:16 PM
   Metronidazole - [**2168-4-16**] 08:03 AM
   Vancomycin - [**2168-4-16**] 08:04 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2168-4-15**] 07:15 PM
   Lorazepam (Ativan) - [**2168-4-15**] 10:29 PM
   Metoprolol - [**2168-4-16**] 02:45 AM
   Heparin Sodium (Prophylaxis) - [**2168-4-16**] 08:03 AM
   Pantoprazole (Protonix) - [**2168-4-16**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-4-16**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.8
C (100.1
   HR: 83 (78 - 151) bpm
   BP: 112/64(73) {91/59(70) - 130/80(88)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 93 kg (admission): 94.3 kg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  4,412 mL
                                                                  1,142 mL
   PO:
   TF:
   IVF:
                                                                  4,292 mL
                                                                  1,142 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                  1,615 mL
   Urine:
                                                                  2,230 mL
                                                                  1,595 mL
   NG:
                                                                    750 mL
   Stool:
   Drains:
                                                                     65 mL
                                                                     20 mL
   Balance:
                                                                  1,342 mL
                                                                   -473 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese, RLQ ostomy; midline surgical
   incision
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   262 K/uL
   113 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   21 mg/dL
   102 mEq/L
   134 mEq/L
   32.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  03:05 PM
                             [**2168-4-16**]  03:35 AM
   WBC
   9.8
   9.0
   9.7
   12.8
   Hct
   33.6
   31.7
   32.5
   32.5
   Plt
   222
   220
   236
   262
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   138
   122
   112
   107
   113
   Other labs: PT / PTT / INR:14.1/30.1/1.2, CK / CKMB /
   Troponin-T:464/3/<0.01, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   The patient is a 54 year old male with a history of BPH, HTN, and
   recently diagnosed rectosigmoid cancer s/p open low anterior resection,
   complicated by fevers in the setting of a small anastomotic leak now in
   the ICU following surgical repair.
   A-FLUTTER -- persistent.  Would hold on DC cardioversion in context of
   sepsis/peritonitis (likely precipitant for A-Flutter).
   Anastomotic leak --
   PERITONITIS --
   # post-op tachycardia/a.fib: never symptomatic, went as high as 190.
   controlled by dilt and metoprolol IV.
   - per surgery: rec: metoprolol iv 5mg q 4h with holding parameters.
   Will clarify need for standing dose with surgery and cards consult
   given pt is now in sinus rhythm.
   - likely will just monitor, patient responded well to diltiazem without
   too much of an effect on his BP.
   # Fevers:  Likely from peritonitis in the setting of anastomotic leak
   seen on fluoroscopy, now s/p surgical repair.  Had been dosed
   vanc/zosyn yesterday, and currently on vanc/cipro/flagyl.  With also a
   potential concern for c.diff, flagyl will also cover.
   - f/u blood cultures
   - c.diff
 negative, on flagyl
   - trend fever curve, tylenol PRN
   - CIS
   .
   # Anastomotic leak: now s/p surgical repair.  Continued co-management
   w/ general surgery.
   - NGT on suction
   - monitor drain output.
   - dilaudid PCA for pain control
   .
   # Rectosigmoid cancer: s/p surgical excision.
   - f/u lymphnode biopsies and further outpatient plan per Dr. [**Last Name (STitle) 2998**].
   .
   # Acute Renal Failure: Most likely etiologies include pre-renal failure
   vs. ATN from perioperative hypotension.  Will continue with IVF, and
   reassess in am.  If not improving, can send off urine studies.
   - avoid nephrotoxic meds
   - trend UOP.
   .
   # BPH: will hold hytrin in case becomes septic.
   .
   FEN: IVF at 75 cc/hr, replete electrolytes, NPO
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code:  Full
   .
   Communication: Patient w/ wife [**First Name4 (NamePattern1) **] [**Known lastname 12476**] [**0-0-**]
   .
   Disposition: pending clinical improvement, call-out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   18 Gauge - [**2168-4-15**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2168-04-17 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2168-4-17**] 12:04 AM
   - Flutter well controlled on dilt gtt with rate in 90s.
   - [**Doctor First Name **] wants cardioversion.  Cards said to continue dilt gtt, consider
   cardioversion on Monday if patient hasn't converted by then.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-4-16**] 08:04 AM
   Ciprofloxacin - [**2168-4-16**] 10:04 PM
   Metronidazole - [**2168-4-17**] 12:00 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-4-16**] 08:03 AM
   Pantoprazole (Protonix) - [**2168-4-16**] 08:04 AM
   Lorazepam (Ativan) - [**2168-4-16**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-17**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.9
C (100.3
   HR: 87 (79 - 94) bpm
   BP: 127/79(90) {112/64(73) - 151/86(95)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 91.3 kg (admission): 94.3 kg
             Total In:
                                                                  3,874 mL
                                                                    867 mL
   PO:
             TF:
   IVF:
                                                                  3,874 mL
                                                                    867 mL
   Blood products:
   Total out:
                                                                  4,065 mL
                                                                  1,050 mL
   Urine:
                                                                  4,045 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                   -191 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   306 K/uL
   12.2 g/dL
   119 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   16 mg/dL
   103 mEq/L
   136 mEq/L
   35.0 %
   14.5 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  03:05 PM
                             [**2168-4-16**]  03:35 AM
                             [**2168-4-17**]  03:57 AM
   WBC
   9.8
   9.0
   9.7
   12.8
   14.5
   Hct
   33.6
   31.7
   32.5
   32.5
   35.0
   Plt
   222
   220
   236
   262
   306
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   138
   122
   112
   107
   113
   119
   Other labs: PT / PTT / INR:14.1/29.8/1.2, CK / CKMB /
   Troponin-T:464/3/<0.01, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   The patient is a 54 year old male with a history of BPH, HTN, and
   recently diagnosed rectosigmoid cancer s/p open low anterior resection,
   complicated by fevers in the setting of a small anastomotic leak now in
   the ICU following surgical repair.
   .
   # Atrial Flutter: It was paroxysmal at first and now consistent, never
   symptomatic; fib vs flutter with variable block, went as high as 190.
   controlled by dilt and metoprolol IV at first but requiring increasing
   doses. Ultimately controlled with Dilt Basal/Bolus at 3:1 block. TTE
   with mild dilation of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 12515**] suitable protoplasm for SVT. Normal
   TSH
   - continue Dilt drip
   - convert to bolus, likely 60 QID PO once able to take POs
   - Cards following
   - cardioversion planned for Monday
   -on heparin gtt
   .
   # Fevers:  Gram stain positive for GNR in peritoneal sample. Likely
   from peritonitis in the setting of anastomotic leak seen on
   fluoroscopy, now s/p surgical repair.  Had been dosed vanc/zosyn
   yesterday, and currently on vanc/cipro/flagyl.  With also a potential
   concern for c.diff, flagyl will also cover.
   - f/u blood cultures
   - trend fever curve; cooling techniques (bath, blanket), Tylenol when
   GI tract is not off-limits
   - CIS
   - consider re-imaging abdomen
   .
   # Anastomotic leak: now s/p surgical repair.  Continued co-management
   w/ general surgery.
   - NGT on suction
   - monitor drain output.
   - dilaudid PCA for pain control
   .
   # Rectosigmoid cancer: s/p surgical excision.
   - f/u lymph node biopsies and further outpatient plan per Dr.
   [**Last Name (STitle) 2998**].
   .
   # Acute Renal Failure: Most likely etiologies include pre-renal failure
   vs. ATN from perioperative hypotension.  Improved with fluids.
   - avoid nephrotoxic meds
   - trend UOP.
   .
   # BPH: will hold hytrin in case he becomes hypotensive.
   .
   FEN: IVF at 100 cc/hr, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient w/ wife [**Name (NI) 169**] [**Name (NI) **] [**0-0-**]
                             Daughter is GI PA
   Disposition: pending clinical improvement, call-out when stable on
   bolus dosing
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   18 Gauge - [**2168-4-15**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-04-17 11:44:00 Physician Attending Progress Note
Chief Complaint: Atrial tachycardia (A-flutter)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Offers no new symptoms.
   Remains on heparin.
   Remains on diltiazem infusion, awaiting DC cardioverson per Cardiology.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-4-16**] 08:04 AM
   Metronidazole - [**2168-4-17**] 08:00 AM
   Ciprofloxacin - [**2168-4-17**] 10:00 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-4-16**] 10:00 PM
   Pantoprazole (Protonix) - [**2168-4-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-10**] Mild
   Pain location: Abd surgical incision
   Flowsheet Data as of  [**2168-4-17**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.3
C (101
   Tcurrent: 38.2
C (100.7
   HR: 90 (79 - 107) bpm
   BP: 131/75(88) {119/64(78) - 151/86(95)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 91.3 kg (admission): 94.3 kg
             Total In:
                                                                  3,874 mL
                                                                  1,704 mL
   PO:
             TF:
   IVF:
                                                                  3,874 mL
                                                                  1,704 mL
   Blood products:
   Total out:
                                                                  4,065 mL
                                                                  2,070 mL
   Urine:
                                                                  4,045 mL
                                                                  2,070 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                   -191 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.2 g/dL
   306 K/uL
   119 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   16 mg/dL
   103 mEq/L
   136 mEq/L
   35.0 %
   14.5 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  03:05 PM
                             [**2168-4-16**]  03:35 AM
                             [**2168-4-17**]  03:57 AM
   WBC
   9.8
   9.0
   9.7
   12.8
   14.5
   Hct
   33.6
   31.7
   32.5
   32.5
   35.0
   Plt
   222
   220
   236
   262
   306
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   138
   122
   112
   107
   113
   119
   Other labs: PT / PTT / INR:14.1/29.8/1.2, CK / CKMB /
   Troponin-T:464/3/<0.01, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   54 yom recently diagnosed rectosigmoid cancer s/p open low anterior
   resection, complicated by anastomotic leak.
   A-FLUTTER -- persistent.  Would hold on DC cardioversion in context of
   sepsis/peritonitis (likely precipitant for A-Flutter), continue
   pharmacological treatment.  Cardiology to assess need and timing of
   cardioversion --> planned for tomorrow AM if remains in a-flutter.
   ANASTOMOTIC LEAK
 s/p surgical repair.  Dilaudid PCA pump for pain
   control.
   PERITONITIS
 clinically improving with antimicrobials.  Monitor exam.
   FEVERS -- Persistent, likely from peritonitis in the setting of
   anastomotic leak, now s/p surgical repair.  Continue antimicrobials.
   Consider repeat imaging with ABD/Pelvic CT.
   RECTO-SIGMOID CA -- s/p surgical excision.  f/u lymphnode biopsies and
   further outpatient plan per Dr. [**Last Name (STitle) 2998**].
   ACUTE RENAL FAILURE -- Most likely pre-renal failure vs. ATN from
   perioperative hypotension.  Will continue with IVF, and reassess in
   am.  If not improving, can send off urine studies.  Avoid nephrotoxic
   meds
   FLUIDS
 continue to net volume expand in context of sepsis (3rd
   spacing).  Monitor I/O.
   NUTRITIONAL SUPPORT -- remains NPO.  [**Month (only) 8**] require replacing NGT if ileus
   remains.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   18 Gauge - [**2168-4-17**] 10:04 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-04-18 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - flutter well controlled on dilt, getting a heparin gtt, plan for
   cardiovert in am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-4-16**] 08:04 AM
   Ciprofloxacin - [**2168-4-17**] 10:00 AM
   Metronidazole - [**2168-4-17**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2168-4-17**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-4-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-18**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 74 (66 - 107) bpm
   BP: 132/70(83) {114/63(54) - 144/81(93)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 94.3 kg
             Total In:
                                                                  4,081 mL
                                                                  1,221 mL
   PO:
             TF:
   IVF:
                                                                  4,081 mL
                                                                  1,221 mL
   Blood products:
   Total out:
                                                                  3,660 mL
                                                                    585 mL
   Urine:
                                                                  3,640 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                    421 mL
                                                                    636 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   374 K/uL
   12.6 g/dL
   132 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   16 mg/dL
   103 mEq/L
   135 mEq/L
   36.6 %
   18.3 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  03:05 PM
                             [**2168-4-16**]  03:35 AM
                             [**2168-4-17**]  03:57 AM
                             [**2168-4-18**]  01:00 AM
   WBC
   9.8
   9.0
   9.7
   12.8
   14.5
   18.3
   Hct
   33.6
   31.7
   32.5
   32.5
   35.0
   36.6
   Plt
   222
   220
   236
   [**Telephone/Fax (3) 12563**]
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   0.8
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   138
   122
   112
   107
   113
   119
   132
   Other labs: PT / PTT / INR:14.5/29.4/1.3, CK / CKMB /
   Troponin-T:464/3/<0.01, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   54 year old male with a history of BPH, HTN, and recently diagnosed
   rectosigmoid cancer s/p open low anterior resection, complicated by
   fevers in the setting of a small anastomotic leak now in the ICU
   following surgical repair.
   .
   # Atrial Flutter: It was paroxysmal at first and now consistent, never
   symptomatic; fib vs flutter with variable block, went as high as 190.
   controlled by dilt and metoprolol IV at first but requiring increasing
   doses. Ultimately controlled with Dilt Basal/Bolus at 3:1 block. TTE
   with mild dilation of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 12515**] suitable protoplasm for SVT. Normal
   TSH
   - continue Dilt drip
   - convert to bolus, likely 60 QID PO once able to take POs
   - Cards following
   - cardioversion planned for Monday
   - on heparin gtt
   .
   # Fevers:  Gram stain positive for GNR in peritoneal sample. Likely
   from peritonitis in the setting of anastomotic leak seen on
   fluoroscopy, now s/p surgical repair.  Had been dosed vanc/zosyn
   yesterday, and currently on vanc/cipro/flagyl.  With also a potential
   concern for c.diff, flagyl will also cover.
   - f/u blood cultures
   - trend fever curve; cooling techniques (bath, blanket), Tylenol when
   GI tract is not off-limits
   - CIS
   - consider re-imaging abdomen
   .
   # Anastomotic leak: now s/p surgical repair.  Continued co-management
   w/ general surgery.
   - NGT on suction
   - monitor drain output.
   - dilaudid PCA for pain control
   .
   # Rectosigmoid cancer: s/p surgical excision.
   - f/u lymph node biopsies and further outpatient plan per Dr.
   [**Last Name (STitle) 2998**].
   .
   # Acute Renal Failure: Most likely etiologies include pre-renal failure
   vs. ATN from perioperative hypotension.  Improved with fluids.
   - avoid nephrotoxic meds
   - trend UOP.
   .
   # BPH: will hold hytrin in case he becomes hypotensive.
   .
   FEN: IVF at 100 cc/hr, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient w/ wife [**Name (NI) 169**] [**Name (NI) **] [**0-0-**]
                             Daughter is GI PA
   Disposition: pending clinical improvement, call-out when stable on
   bolus dosing
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   18 Gauge - [**2168-4-17**] 10:04 AM
   22 Gauge - [**2168-4-17**] 07:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-04-18 11:36:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tachcardia -- aflutter converted to NSR last PM.  Remains in NSR.
   Remains on Diltiazem.  Heparin discontinued.
   Surgery explored abd surgical incision at bedside --- plan to allow
   healing by secondary intention.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-4-16**] 08:04 AM
   Ciprofloxacin - [**2168-4-17**] 10:00 AM
   Metronidazole - [**2168-4-17**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2168-4-17**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-4-18**] 08:32 AM
   Lorazepam (Ativan) - [**2168-4-18**] 09:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-10**] Mild
   Pain location: abdominal surgical incision
   Flowsheet Data as of  [**2168-4-18**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38
C (100.4
   HR: 72 (66 - 105) bpm
   BP: 123/70(82) {114/63(54) - 143/81(93)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 94.3 kg
             Total In:
                                                                  4,081 mL
                                                                  2,051 mL
   PO:
             TF:
   IVF:
                                                                  4,081 mL
                                                                  2,051 mL
   Blood products:
   Total out:
                                                                  3,660 mL
                                                                    915 mL
   Urine:
                                                                  3,640 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                    421 mL
                                                                  1,136 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Mild
   distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: Midline surgical incision, Obese, Lower portion of
   midline surgical incision with staples removed per surgery service
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.6 g/dL
   374 K/uL
   132 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   16 mg/dL
   103 mEq/L
   135 mEq/L
   36.6 %
   18.3 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  03:05 PM
                             [**2168-4-16**]  03:35 AM
                             [**2168-4-17**]  03:57 AM
                             [**2168-4-18**]  01:00 AM
   WBC
   9.8
   9.0
   9.7
   12.8
   14.5
   18.3
   Hct
   33.6
   31.7
   32.5
   32.5
   35.0
   36.6
   Plt
   222
   220
   236
   [**Telephone/Fax (3) 12563**]
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   0.8
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   138
   122
   112
   107
   113
   119
   132
   Other labs: PT / PTT / INR:14.5/29.4/1.3, CK / CKMB /
   Troponin-T:464/3/<0.01, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   54 yom recently diagnosed rectosigmoid cancer s/p open low anterior
   resection, complicated by anastomotic leak.
   A-FLUTTER -- Converted.  Would hold on DC cardioversion in context of
   sepsis/peritonitis (likely precipitant for A-Flutter), continue
   pharmacological treatment.  Cardiology to assess need and timing of
   cardioversion --> planned for tomorrow AM if remains in a-flutter.
   ANASTOMOTIC LEAK
 s/p surgical repair.  Dilaudid PCA pump for pain
   control.
   PERITONITIS
 clinically stable, with limited progress.  Continue with
   antimicrobials.  Monitor exam.
   FEVERS -- Persistent, likely from peritonitis in the setting of
   anastomotic leak, now s/p surgical repair.  Continue antimicrobials.
   Consider repeat imaging with ABD/Pelvic CT.
   RECTO-SIGMOID CA -- s/p surgical excision.  f/u lymphnode biopsies and
   further outpatient plan per Dr. [**Last Name (STitle) 2998**].
   ACUTE RENAL FAILURE -- Most likely pre-renal failure vs. ATN from
   perioperative hypotension.  Will continue with IVF, and reassess in
   am.  If not improving, can send off urine studies.  Avoid nephrotoxic
   meds.
   FLUIDS
 continue to net volume expand in context of sepsis (3rd
   spacing).  Monitor I/O.
   NUTRITIONAL SUPPORT -- remains NPO.  [**Month (only) 8**] require replacing NGT if ileus
   remains.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   18 Gauge - [**2168-4-17**] 10:04 AM
   22 Gauge - [**2168-4-17**] 07:41 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-04-19 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2168-4-18**] 09:05 PM
 BLOOD CULTURED - At [**2168-4-19**] 06:05 AM
   #2 of 2
   - Cardioverted on dilt
   - Started on Metoprolol 12.5 TID (PO) --> see below
   - Started on ASA 81 mg daily
   - Nursing concern: belly more distended? Looks like gas in ostomy bag.
   [**Doctor Last Name 132**] says to d/c POs (bb and asa)
   - On Metoprolol 5 IV QID
   - Nausea a problem, received zofran
   - [**Doctor Last Name 3800**] looked different, nurse [**First Name (Titles) **] [**Last Name (Titles) **]:
   - 1 L bilious emesis at 0558 --> Surgical team --> Place NGT if more
   vomit. (ordered urojet prn ngt)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-4-16**] 08:04 AM
   Ciprofloxacin - [**2168-4-17**] 10:00 AM
   Metronidazole - [**2168-4-17**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2168-4-19**] 05:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-4-18**] 08:32 AM
   Lorazepam (Ativan) - [**2168-4-18**] 10:33 AM
   Heparin Sodium (Prophylaxis) - [**2168-4-18**] 09:30 PM
   Metoprolol - [**2168-4-19**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-19**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100
   HR: 86 (70 - 86) bpm
   BP: 130/81(92) {116/49(66) - 143/94(101)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 94.3 kg
             Total In:
                                                                  3,600 mL
                                                                    979 mL
   PO:
             TF:
   IVF:
                                                                  3,600 mL
                                                                    979 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                  1,340 mL
   [**Year (2 digits) 3800**]:
                                                                  1,870 mL
                                                                    290 mL
   NG:
   800 mL
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   526 K/uL
   12.9 g/dL
   124 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   21 mg/dL
   103 mEq/L
   135 mEq/L
   38.3 %
   22.3 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  03:05 PM
                             [**2168-4-16**]  03:35 AM
                             [**2168-4-17**]  03:57 AM
                             [**2168-4-18**]  01:00 AM
                             [**2168-4-19**]  05:37 AM
   WBC
   9.8
   9.0
   9.7
   12.8
   14.5
   18.3
   22.3
   Hct
   33.6
   31.7
   32.5
   32.5
   35.0
   36.6
   38.3
   Plt
   222
   220
   236
   [**Telephone/Fax (3) 12563**]
   526
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   0.8
   0.9
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   138
   122
   112
   107
   113
   119
   132
   124
   Other labs: PT / PTT / INR:14.5/29.4/1.3, CK / CKMB /
   Troponin-T:464/3/<0.01, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   54 year old male with a history of BPH, HTN, and recently diagnosed
   rectosigmoid cancer s/p open low anterior resection, complicated by
   fevers in the setting of a small anastomotic leak now in the ICU
   following surgical repair.
   .
   # Nausea/vomiting: 1L of bilious output with NG tube placement. Concern
   for obstruction.
   - Per surgery: CT abd/pelvis with contrast
   - NGT placed with over 1.5 lt drained
   .
   # Fevers:  Gram stain positive for GNR in peritoneal sample. Likely
   from peritonitis in the setting of anastomotic leak seen on
   fluoroscopy, now s/p surgical repair.  Had been dosed vanc/zosyn
   yesterday, and currently on vanc/cipro/flagyl.  With also a potential
   concern for c.diff, flagyl will also cover.
   - f/u blood cultures
   - trend fever curve; cooling techniques (bath, blanket), Tylenol when
   GI tract is not off-limits
   - CIS
   - re-image abdomen as above
   - IV Vanco per surgery
   - Add diff to CBC
   .
   # Anastomotic leak: now s/p surgical repair.  Continued co-management
   w/ general surgery.
   - monitor drain output.
   - dilaudid PCA for pain control
   .
   # Atrial Flutter
 now spontaneously converted to NSR.  Likely [**2-9**]
   post-operative inflammation, infection.
   - stopped anticoagulation
   - Cards recs: low dose PO BB + ASA when [**Doctor First Name **] comfortable
   .
   # Rectosigmoid cancer: s/p surgical excision.
   - f/u lymph node biopsies and further outpatient plan per Dr.
   [**Last Name (STitle) 2998**].
   .
   # Acute Renal Failure: Most likely etiologies include pre-renal failure
   vs. ATN from perioperative hypotension.  Improved with fluids.
   - avoid nephrotoxic meds
   - trend UOP.
   .
   # BPH: will hold hytrin in case he becomes hypotensive.
   .
   FEN: IVF at 100 cc/hr, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient w/ wife [**Name (NI) 169**] [**Name (NI) **] [**0-0-**]
                             Daughter is GI PA
   Disposition: pending clinical improvement, call-out when stable on
   bolus dosing
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   18 Gauge - [**2168-4-17**] 10:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-04-19 10:05:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Emesis this AM ~500 cc (non-bloody)
   Persistent nausea --> replaced NGT with suction of 1.5 L non-bloody
   material.  Much improved nausea and abd fullness following placement of
   NGT.
   Passing some flattus, liquid stool (non-bloody) via ostomy.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-4-17**] 10:00 AM
   Metronidazole - [**2168-4-17**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2168-4-19**] 05:00 AM
   Vancomycin - [**2168-4-19**] 09:11 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-4-18**] 10:33 AM
   Metoprolol - [**2168-4-19**] 05:50 AM
   Pantoprazole (Protonix) - [**2168-4-19**] 09:11 AM
   Heparin Sodium (Prophylaxis) - [**2168-4-19**] 09:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-10**] Mild
   Pain location: Abd, diffuse
   Flowsheet Data as of  [**2168-4-19**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.7
   HR: 80 (70 - 86) bpm
   BP: 139/82(95) {116/49(66) - 143/94(101)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 94.3 kg
             Total In:
                                                                  3,600 mL
                                                                  1,395 mL
   PO:
             TF:
   IVF:
                                                                  3,600 mL
                                                                  1,395 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                  3,180 mL
   [**Year (2 digits) 3800**]:
                                                                  1,870 mL
                                                                    430 mL
   NG:
   2,000 mL
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                 -1,785 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Blanching erythema right
   wrist (iv site)
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.9 g/dL
   526 K/uL
   124 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   21 mg/dL
   103 mEq/L
   135 mEq/L
   38.3 %
   22.3 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  03:05 PM
                             [**2168-4-16**]  03:35 AM
                             [**2168-4-17**]  03:57 AM
                             [**2168-4-18**]  01:00 AM
                             [**2168-4-19**]  05:37 AM
   WBC
   9.8
   9.0
   9.7
   12.8
   14.5
   18.3
   22.3
   Hct
   33.6
   31.7
   32.5
   32.5
   35.0
   36.6
   38.3
   Plt
   222
   220
   236
   [**Telephone/Fax (3) 12563**]
   526
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   0.8
   0.9
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   138
   122
   112
   107
   113
   119
   132
   124
   Other labs: PT / PTT / INR:14.5/29.4/1.3, CK / CKMB /
   Troponin-T:464/3/<0.01, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   54 yom recently diagnosed rectosigmoid cancer s/p open low anterior
   resection, complicated by anastomotic leak
 peritonitis.
   A-FLUTTER -- Converted.  Would hold on DC cardioversion in context of
   sepsis/peritonitis (likely precipitant for A-Flutter), continue
   pharmacological treatment.  Cardiology to assess need and timing of
   cardioversion --> planned for tomorrow AM if remains in a-flutter.
   ANASTOMOTIC LEAK
 s/p surgical repair.  Dilaudid PCA pump for pain
   control.
   PERITONITIS
 clinically stable, with limited progress.  Continue with
   antimicrobials.  Monitor exam.
   FEVERS -- Persistent, likely from peritonitis in the setting of
   anastomotic leak, now s/p surgical repair.  Continue antimicrobials.
   Consider repeat imaging with ABD/Pelvic CT.
   RECTO-SIGMOID CA -- s/p surgical excision.  f/u lymphnode biopsies and
   further outpatient plan per Dr. [**Last Name (STitle) 2998**].
   ACUTE RENAL FAILURE -- Most likely pre-renal failure vs. ATN from
   perioperative hypotension.  Continue with IV fliuids.  Avoid
   nephrotoxic meds.  Monitor [**Last Name (STitle) **] output, BUN, creat.
   FLUIDS
 continue to net volume expand in context of sepsis (3rd
   spacing).  Monitor I/O.
   NUTRITIONAL SUPPORT -- remains NPO.  [**Month (only) 8**] require replacing NGT if ileus
   remains.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-04-20 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   NGT placed; immediate suction of 1.5 L bilious fluid
   - CT scan abd/pelvis w/ contrast --> sacral abscess near anastomotic
   site; had IR-guided drainage and JP drain placement; they feel it was
   probably hematoma that became secondarily infected; cultures pending
   - IV Vanco added
   - went into AF c RVR at night after hiccuping; converted back to NSR
   with metoprolol 5 mg IV x 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-4-17**] 10:00 AM
   Metronidazole - [**2168-4-17**] 04:00 PM
   Vancomycin - [**2168-4-19**] 08:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2168-4-19**] 10:15 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-4-19**] 09:11 AM
   Heparin Sodium (Prophylaxis) - [**2168-4-19**] 08:42 PM
   Lorazepam (Ativan) - [**2168-4-19**] 10:00 PM
   Metoprolol - [**2168-4-20**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-20**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 81 (72 - 97) bpm
   BP: 124/78(89) {101/42(56) - 150/83(99)} mmHg
   RR: 13 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 94.3 kg
             Total In:
                                                                  4,790 mL
                                                                    729 mL
   PO:
             TF:
   IVF:
                                                                  4,340 mL
                                                                    729 mL
   Blood products:
   Total out:
                                                                  5,250 mL
                                                                    645 mL
   Urine:
                                                                  1,465 mL
                                                                    505 mL
   NG:
                                                                  2,650 mL
   Stool:
   Drains:
                                                                    110 mL
                                                                     40 mL
   Balance:
                                                                   -460 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   543 K/uL
   12.5 g/dL
   119 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.5 mEq/L
   18 mg/dL
   104 mEq/L
   135 mEq/L
   35.8 %
   19.8 K/uL
        [image002.jpg]
                             [**2168-4-14**]  06:37 PM
                             [**2168-4-15**]  12:42 AM
                             [**2168-4-15**]  01:40 AM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  03:05 PM
                             [**2168-4-16**]  03:35 AM
                             [**2168-4-17**]  03:57 AM
                             [**2168-4-18**]  01:00 AM
                             [**2168-4-19**]  05:37 AM
                             [**2168-4-20**]  04:41 AM
   WBC
   9.8
   9.0
   9.7
   12.8
   14.5
   18.3
   22.3
   19.8
   Hct
   33.6
   31.7
   32.5
   32.5
   35.0
   36.6
   38.3
   35.8
   Plt
   222
   220
   236
   [**Telephone/Fax (2) 12613**]43
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   0.8
   0.9
   1.0
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   138
   122
   112
   107
   113
   119
   132
   124
   119
   Other labs: PT / PTT / INR:15.1/30.3/1.3, CK / CKMB /
   Troponin-T:464/3/<0.01, ALT / AST:16/12, Alk Phos / T Bili:61/0.5,
   Amylase / Lipase:/170, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:5.0
   %, Mono:5.0 %, Eos:2.0 %, LDH:234 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   54 year old male with a history of BPH, HTN, and recently diagnosed
   rectosigmoid cancer s/p open low anterior resection, complicated by
   fevers in the setting of a small anastomotic leak now in the ICU
   following surgical repair.
   .
   # Nausea/vomiting: 1L of bilious output with NG tube placement. Concern
   for obstruction.
   - Per surgery: CT abd/pelvis with contrast
   - NGT placed with over 1.5 lt drained
   .
   # Fevers:  Gram stain positive for GNR in peritoneal sample. Likely
   from peritonitis in the setting of anastomotic leak seen on
   fluoroscopy, now s/p surgical repair.  Had been dosed vanc/zosyn
   yesterday, and currently on vanc/cipro/flagyl.  With also a potential
   concern for c.diff, flagyl will also cover.  Sacral abcess s/p
   drainage.
   - f/u blood cultures
   - trend fever curve; cooling techniques (bath, blanket), Tylenol when
   GI tract is not off-limits
   - re-image abdomen to eval abcess progression
   - IV Vanco per surgery
   - Add diff to CBC
   .
   # Anastomotic leak: now s/p surgical repair.  Continued co-management
   w/ general surgery.
   - monitor drain output.
   - dilaudid PCA for pain control
   .
   # Atrial Flutter
 now spontaneously converted to NSR.  Likely [**2-9**]
   post-operative inflammation, infection.
   - stopped anticoagulation
   - Cards recs: low dose PO BB + ASA when [**Doctor First Name **] comfortable
   .
   # Rectosigmoid cancer: s/p surgical excision.
   - f/u lymph node biopsies and further outpatient plan per Dr.
   [**Last Name (STitle) 2998**].
   .
   # Acute Renal Failure: Most likely etiologies include pre-renal failure
   vs. ATN from perioperative hypotension.  Improved with fluids.
   - avoid nephrotoxic meds
   - trend UOP.
   .
   # BPH: will hold hytrin in case he becomes hypotensive.
   .
   FEN: IVF at 100 cc/hr, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient w/ wife [**Name (NI) 169**] [**Name (NI) **] [**0-0-**]
                             Daughter is GI PA
   Disposition: pending clinical improvement, call-out when stable on
   bolus dosing
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2168-4-14**] 06:32 PM
   20 Gauge - [**2168-4-19**] 10:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: